US04788210
0.19 g of sodium hydride is placed in 10 ml of N,N-dimethylformamide. A solution of 2.3 g of 3-(o-fluorophenyl)-5-(o-trifluoromethyl-phenyl)-1H-1,2,4-triazole in 15 ml of N,N-dimethylformamide is allowed to drop in while stirring during 10 minutes. After stirring for a further 45 minutes the solution, which has meanwhile become brown, is treated dropwise with 1.17 g of methyl iodide while cooling with ice. The reaction mixture is stirred for a further one hour and thereafter poured on to ice-water, and the aqueous mixture is extracted three times with ethyl acetate. The combined extracts are washed with water and saturated sodium chloride solution, dried over anhydrous sodium sulphate and evaporated under reduced pressure. In this manner there is obtained a mixture of isomeric N-methyltriazoles which can be separated by chromatography on silica gel. By elution with n-hexane/ethyl acetate (19:1) there is obtained pure 5-(o-fluorophenyl)-1-methyl-3-(o-trifluoromethyl-phenyl)-1H-1,2,4-triazole as a resinous product, 1H-NMR(CDCl3): 3.93 (d, CH3, coupling with F).

reactant | sodium hydride | 0.19 g | [H-].[Na+]
reactant | 3-(o-fluorophenyl)-5-(o-trifluoromethyl-phenyl)-1H-1,2,4-triazole | 2.3 g | FC1=C(C=CC=C1)C1=NNC(=N1)C1=C(C=CC=C1)C(F)(F)F | C15H9F4N3
reactant | methyl iodide | 1.17 g | CI | CH3I
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 5-(o-fluorophenyl)-1-methyl-3-(o-trifluoromethyl-phenyl)-1H-1,2,4-triazole | FC1=C(C=CC=C1)C1=NC(=NN1C)C1=C(C=CC=C1)C(F)(F)F | C16H11F4N3
